US06143779
Synthesis of 2-[1-(1H-5-indolyl)methylidene]-2,3-dihydrobenzo[b]furan-3-one
2H-benzofuran-3-one 1 g and 4-formylindol 1.29 g were dissolved in dichloromethane 25 ml, aluminum oxide (manufactured by Merck Co., cat. No. 1076) 24.0 g was added, and the mixture was stirred for two hours, and aluminum oxide was filtered to obtain a reaction solution. Aluminum oxide was washed with dichloromethane 150 ml twice. The dichloromethane solution and the reaction solution were combined and concentrated at a temperature of 40° C. under reduced pressure. The concentrate was dissolved in methanol 20 ml, the solution was allowed to stand at room temperature for two hours. The precipitated crystals were filtered, and the resulting crystals were dried at a temperature of 60° C. for two hours under reduced pressure to obtain the desired compound 1.22 g.

reactant | 2H-benzofuran-3-one | 1 g | O1CC(C2=C1C=CC=C2)=O | C8H6O2
reactant | 4-formylindol | 1.29 g | C(=O)C1=C2C=CNC2=CC=C1 | C9H7NO
reactant | aluminum oxide | [O-2].[Al+3].[O-2].[O-2].[Al+3]
reactant | dichloromethane | 25 ml | ClCCl | CH2Cl2
product | 2-[1-(1H-5-indolyl)methylidene]-2,3-dihydrobenzo[b]furan-3-one | 1.22 g | N1C=CC2=CC(=CC=C12)C=C1C(C2=C(O1)C=CC=C2)=O | C17H11NO2
